US07759337B2
Step 3: 2-fluoro-3-iodo-4-methylbenzaldehyde
To a solution of 2-fluoro-3-iodo-4-methylbenzoic acid (2.00 g, 7.1 mmol) in anhydrous THF (10 mL) was added trimethyl borate (0.80 mL, 7.1 mmol) at RT. The resulting mixture was stirred for 15 min, then cooled in an ice bath and treated with borane-dimethyl sulfide (6.4 mL of 2.0 M solution in THF, 12.8 mmol) slowly. The reaction mixture was stirred for 4 h at RT. Methanol (0.5 mL) was added dropwise at RT. After stirring for 30 min, the reaction mixture was concentrated under vacuum. The residue was diluted with of ethyl acetate, washed with a saturated aqueous solution of sodium bicarbonate followed by brine. The resulting organic solution was then dried over magnesium sulfate and concentrated under reduced pressure to give 2-fluoro-3-iodo-4-methylphenyl)methanol as an off-white amorphous solid, which was used without further purification.

reactant | 2-fluoro-3-iodo-4-methylbenzoic acid | 7.1 mmol, 2.00 g | FC1=C(C(=O)O)C=CC(=C1I)C | C8H6FIO2
reactant | trimethyl borate | 7.1 mmol, 0.80 mL | B(OC)(OC)OC | C3H9BO3
reactant | borane-dimethyl sulfide | 12.8 mmol, 2.0 M, 6.4 mL | CSC.B
reactant | Methanol | 0.5 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-fluoro-3-iodo-4-methylbenzaldehyde | FC1=C(C=O)C=CC(=C1I)C | C8H6FIO
